US04536505
A solution of lithium diisopropylamide (from 0.57 ml of diisopropylamine and 2.5 ml of 1.6M n-butyllithium in hexane) in 20 ml of dry tetrahydrofuran under nitrogen is cooled to -70° and 0.78 ml of triethyl 4-phosphonocrotonate is added dropwise. The reaction mixture is stirred for 30 minutes at -70°, and then a solution of 0.9 g of N-(3-pyridyl)indole-2-carboxaldehyde in 5 ml of tetrahydrofuran is added slowly. The reaction mixture is allowed to warm to room temperature, is stirred for 14 hours and is evaporated to an oil which is partitioned between 15 ml of half-saturated ammonium chloride solution and 40 ml of ethyl ether. The organic phase is washed with 10 ml of water, dried over sodium sulfate and evaporated to yield 2-[4-(ethoxycarbonyl)butadienyl]-N-(3-pyridyl)indole as a waxy solid; Rf (10% methanol and toluene, silica gel)=0.7.

reactant | lithium diisopropylamide | 1.6M, 0.57 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | triethyl 4-phosphonocrotonate | 0.78 ml | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | N-(3-pyridyl)indole-2-carboxaldehyde | 0.9 g | N1=CC(=CC=C1)N1C(=CC2=CC=CC=C12)C=O | C14H10N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[4-(ethoxycarbonyl)butadienyl]-N-(3-pyridyl)indole | C(C)OC(=O)C=CC=CC=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C20H18N2O2
